US05051413
14.5 g of E-2-formylamino-2-methyl-5-diethylphosphono-3-pentenoic acid methyl ester are heated for 32 hours under nitrogen at 100°-105° in 500 ml of 4.35N hydrochloric acid. Working up as in Example 11 yields E-2-amino-2-methyl-5-phosphono-3-pentenoic acid, m.p. 225°-226° (from water).

reactant | E-2-formylamino-2-methyl-5-diethylphosphono-3-pentenoic acid methyl ester | 14.5 g | COC(C(\C=C\CP(=O)(OCC)OCC)(C)NC=O)=O | C12H22NO6P
reactant | water | O | H2O
solvent | hydrochloric acid | 4.35N, 500 ml | Cl | ClH
product | E-2-amino-2-methyl-5-phosphono-3-pentenoic acid | NC(C(=O)O)(\C=C\CP(=O)(O)O)C | C6H12NO5P
